* COPYRIGHT OF ELANTEC, INC.
*
*This library of macromodels is being supplied to users as an  aid 
*to   circuit  designs.    While  it  reflects  reasonably   close 
*similarity  to the actual device in terms of performance,  it  is 
*not  suggested  as a replacement for  breadboarding.   Simulation 
*should be used as a forerunner or a supplement to traditional lab 
*testing.
*
*Users  should very carefully note the following factors regarding 
*these models:
*
*Model performance in general will reflect typical baseline  specs 
*for a given device, and certain aspects of performance may not be 
*modeled  fully  to  keep  the model as simple  as  possible  thus 
*minimizing  computer running time.  For example,  PSRR  and  CMRR 
*effects,  parametric variation with temperature,  operation under 
*output short circuit conditions,  and input noise sources are not 
*included in the models.
*
*While  reasonable  care has been taken in their  preparation,  we 
*cannot  be  responsible for correct application on  any  and  all 
*computer  systems.  Model  users are hereby notified  that  these 
*models  are  supplied  "as  is",   with  no  direct  or   implied 
*responsibility on the part of Elantec,  Inc.  for their operation 
*within  a  customer circuit or  system.   Further,  Elantec  Inc. 
*reserves the right to change these models without prior notice.
* 
*In all cases, the current data sheet information for a given real 
*device  is  your final design guideline,  and is the only  actual 
*performance guarantee.   For further technical information, refer 
*to individual device data sheets.
*
*The  Elantec  Engineering staff is in the  process  of  improving 
*these  models,   and  we  welcome  your  comments  and  feedback. 
*Inquiries should be made to:
*
*                  Applications Engineering Manager
*                  Elantec, Inc.
*                  1996 Tarob Ct. 
*                  Milpitas, CA 95035
*
*Voice Telephone:  (800) 333-6314, ext. 311
*
*FAX: (408) 945-9305   
*
*TELEX: 910-997-0649            
*ELH0032 Model
* 
* Connections     +input
*                   |  -input
*                   |    | +Vsupply
*                   |    |    | -Vsupply
*                   |    |    |    |  Output 
*                   |    |    |    |    |  Comp 2
*                   |    |    |    |    |    |  Comp 3
*                   |    |    |    |    |    |    |  Comp 4
*                   |    |    |    |    |    |    |    |
*                   |    |    |    |    |    |    |    |
.subckt ELH0032/EL  6    5    12   10   11   2    3    4  
*
* Models 
*
.model qfa njf (vto=-3V beta=1.11e-3 cgd=2pF cgs=5pF m=0.3744)
*
.model qp pnp (is=1e-14 bf=150 vaf=100 ikf=100mA tf=.53nS vtf=0 ise=1nA,       
+cjc=4pF cje=5.7pF tr=170nS rb=3 br=5 mje=.32 mjc=.43 xtb=2.1 ne=4 
+isc=1nA nc=4 itf=.4 vtf=4 xtf=6)
*
.model qn npn (is=5e-14 bf=150 vaf=800 ikf=200mA tf=.53nS vtf=0       
+cjc=4pF cje=5pF rb=3 br=5 mje=.42 MJC=.23 tr=200nS xtb=2.1
+ise=4nA ne=4 isc=4nA nc=4 itf=.4 vtf=4 xtf=2)
*
.model qfb njf (vto=-2.8V beta=4e-3 cgd=7pF cgs=8pF lambda=4e-3)     
*
.model zener d (bv=2.49V ibv=1mA)
*
* Resistors and Capacitors
*
r1 12 4 700
r2 12 3 700
r3 12 105 160
r4 103 100 10
r5 108 100 10
r6 12 101 22K
r7 113 11 10
r8 11 112 10
r9 102 10 407      
cs2 10 116 100pF
*
* Transistors & Diodes
*
j1a 4 5 103 qfa     
j1b 3 6 108 qfa
j2 111 10 116 qfb
q1 104 4 105 qp
q2 2 3 105 qp
q3 114 11 104 qp
q4 12 2 113 qn
q5 10 111 112 qp
q6 2 2 110 qn     
q7 111 111 110 qp
q8 100 101 102 qn
d1 10 117 zener
q9 101 101 117 qn
q10 114 114 10 qn
q11 116 114 10 qn
.ends
*ELH0101 Macromodel
* Connections        +Input 
*                      |  -Input
*                      |    |    V+
*                      |    |    |    V- 
*                      |    |    |    |   Output
*                      |    |    |    |    |   Isc+
*                      |    |    |    |    |    |   Isc-
*                      |    |    |    |    |    |    | Feedback
*                      |    |    |    |    |    |    |    |
.subckt ELH0101/EL     6    5    2    7    4    1    8    3 
x1                    21         2    1    3    7    8    4    buffer/EL
x2                     6    5    2              7        21    lf156/EL         

*
*  This is a support circuit for the ELH0101/EL macromodel
*
.subckt buffer/EL     21         2    1    3    7    8    4
*
* Resistors 
*
r1 3 27 10
r2 26 3 10
r3 30 7 50
r4 2 23 50
r5 29 7 2K
r6 2 22 2K
r7 27 28 10
r8 24 26 10
*
* Transistors 
*
q1 4 30 8 qnd   
d1 8 4 dclamp
q2 4 23 1 qpd   
d2 4 1 dclamp
q3 7 21 22 qp    
q4 23 22 24 qn    
q5 21 21 26 qn    
q6 23 1 2 qp    
q7 2 21 29 qn    
q8 27 27 21 qn     
q9 30 29 28 qp    
q10 30 8 7 qn    
*
* Models 
*
.model qpd pnp (is=88.013e-12 ikf=5A tf=32nS vaf=50V cje=45pF cjc=60pF
+xtb=2.1 bf=12000 ne=4 ise=1e-10)
.model qnd npn (is=88.013e-12 ikf=5A tf=32nS vaf=50V cje=45pF cjc=60pF
+xtb=2.1 bf=12000 ne=4 ise=1e-10)
.model dclamp d (is=10e-28 tt=100nS)
.model qp pnp (is=10e-15 xti=3 eg=1.11V vaf=91V bf=200 ne=2.321 ise=6.2fA
+ikf=500mA xtb=2.1 br=3.3 nc=2 cjc=14.6pF vjc=0.75V mjc=0.3333 fc=0.5 cje=20pF
+vje=0.75V mje=0.3333 tr=29nS tf=0.4nS itf=0.4 vtf=10 xtf=2 rb=10
.model qn npn (is=3e-15 xti=3 eg=1.11V vaf=151V bf=220 ne=1.541 ise=14fA
+ikf=500mA xtb=2.1 br=6 nc=2 cjc=14.6pF vjc=0.75V mjc=0.3333 fc=0.5 cje=26pF
+vje=0.75V mje=0.3333 tr=51nS tf=0.4nS itf=0.6 vtf=1.7 xtf=2 rb=10
.ends buffer/EL

.ends


*EL2006 Model
* 
* Connections    +input
*                  |  -input
*                  |    | +Vsupply
*                  |    |    | -Vsupply
*                  |    |    |    |  Output
*                  |    |    |    |    |  Comp 2
*                  |    |    |    |    |    |  Comp 3
*                  |    |    |    |    |    |    |  Comp 4
*                  |    |    |    |    |    |    |    |
*                  |    |    |    |    |    |    |    |
.subckt EL2006/EL  6    5    12   10   11   2    3    4 
*
* Models 
*
.model qfa njf (vto=-3V beta=1.11e-3 cgd=2pF cgs=5pF m=0.3744)
*
.model qp pnp (is=5e-14 bf=150 vaf=100 ikf=100mA tf=.53nS vtf=0 ise=1nA,       
+cjc=4pF cje=5.7pF tr=170nS rb=3 br=5 mje=.32 mjc=.43 xtb=2.1 ne=4 
+isc=1nA nc=4 itf=.4 vtf=4 xtf=6)
*
.model qn npn (is=5e-14 bf=150 vaf=800 ikf=200mA tf=.53nS vtf=0       
+cjc=4pF cje=5pF rb=3 br=5 mje=.42 MJC=.23 tr=200nS xtb=2.1
+ise=4nA ne=4 isc=4nA nc=4 itf=.4 vtf=4 xtf=2)
*
.model qfb njf (vto=-2.8V beta=4e-3 cgd=7pF cgs=8pF lambda=4e-3)     
*
.model zener d (bv=2.49V ibv=1mA)
*
* Resistors and Capacitors
*
r1 12 4 700
r2 12 3 700
r3 12 105 160
r4 103 100 10
r5 108 100 10
r6 12 101 22K
r7 113 11 10
r8 11 112 10
r9 102 10 407      
cs2 10 116 100pF
*
* Transistors & Diodes
*
j1a 4 5 103 qfa     
j1b 3 6 108 qfa
j2 111 10 116 qfb
q1 104 4 105 qp
q2 2 3 105 qp
q3 114 11 104 qp
q4 12 2 113 qn
q5 10 111 112 qp
q6 2 2 110 qn     
q7 111 111 110 qp
q8 100 101 102 qn
d1 10 117 zener
q9 101 101 117 qn
q10 114 114 10 qn
q11 116 114 10 qn
.ends
* EL4430 Macromodel
*  Revision A, May 1995
*  This is a Pspice-compatible macromodel of the EL4430 video instrumentation 
*  amplifier assembled as a subcircuit.  The pins are numbered sequentially 
*  as the subcircuit interface nodes.  T1 is a transmission line which provides
*  a good emulation of the more complicated real device.  This model correctly 
*  displays the characteristics of input clipping, frequency response, CMRR
*  both AC and DC, output clipping, output sensitivity to capacitive loads,
*  gain accuracy, slewrate limiting, input bias current and impedance.  The
*  macromodel does not exibit proper results with respect to supply current,
*  supply sensitivities, offsets, output current limit, differential gain or
*  phase, nor temperature.
*  Connections:         IN+
*                         |     VIN-
*                         |       |     V+
*                         |       |       |     V-
*                         |       |       |       |     VOUT 
*                         |       |       |       |       |     VFB
*                         |       |       |       |       |       |     VREF
*                         |       |       |       |       |       |       |     GND
*                         |       |       |       |       |       |       |       |
.SUBCKT EL4430/EL        3       4       7       2       8       6       5        1
***
*** EL4430 macromodel ***
***
******
i1 7 10 .00103
i2 7 11 .00103
i3 7 12 .00105
i4 7 13 .00105
v1 7 14 3
v2 7 15 3
v3 19 2 3
******
c1 11 1 .03p
c2 12 1 .03p
c3 18 1 2.1p
c4 16 17 0.6p
******
r1 10 11 2000
r2 12 13 2000
r3 10 1 30e6
r4 16 2 1000
r5 17 2 1000
r6 18 1 1.27e6
r7 23 21 20
r8 21 8 100
******
l1 21 8 50n
******
d1 11 14 diode
d2 12 14 diode
d3 18 15 diode
d4 19 18 diode
.model diode d(tt=120n)
******
q1 16 3 10 1 pnp
q2 17 4 11 1 pnp
q3 16 5 12 1 pnp
q4 17 6 13 1 pnp
.model pnp pnp (bf=90 va=44 tr=50n)
******
g1 18 1 17 16 .0005
e1 20 1 1 18 1.0
t1 22 1 20 1 z0=50 td=1.5n
rlt1 22 1 50
e2 23 1 22 1 1.0
******
.ENDS
